US09334267B2
6-Bromo-N,7-dimethylpyrido[2,3-d]pyrimidin-2-amine
Cool a solution of N,7-dimethylpyrido[2,3-d]pyrimidin-2-amine (6.73 g, 38.6 mmol) in acetonitrile (160 mL) in an ice bath and shield from light with aluminum foil. Add N-bromosuccinimide (6.88 g, 38.6 mmol) and stir at 0° C. for 2 h. Transfer the reaction to a 5° C. refrigerator for 4 days. Collect the solid by filtration. Wash the solid with DCM and concentrate the washings to obtain the title compound (3.0 g, 31% yield). MS (m/z): 253.0/255.0 (M+1).

reactant | N,7-dimethylpyrido[2,3-d]pyrimidin-2-amine | 38.6 mmol, 6.73 g | CNC=1N=CC2=C(N1)N=C(C=C2)C | C9H10N4
reactant | aluminum | [Al] | Al
reactant | N-bromosuccinimide | 38.6 mmol, 6.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
product | 6-Bromo-N,7-dimethylpyrido[2,3-d]pyrimidin-2-amine | 3.0 g, 31% yield | BrC1=CC2=C(N=C(N=C2)NC)N=C1C | C9H9BrN4
